US04624954
Step (4) Preparation of 2-Bromo-6,7,8,9-tetrahydro-8,8,10-trimethyl-9-(1-pyrrolidinyl)-pyrido[1,2-a]indole Hydrochloride
To a solution of 2-bromo-6,7,8,9-tetrahydro-8,8,10-trimethylpyrido[1,2-a]indol-9-ol (616 mg, 2 mmol) in anhydrous pyridine (10 mL) was added methanesulfonyl chloride (458 mg, 4 mmol) at room temperature. The reaction mixture was stirred for 60 minutes, cooled to 0° C., and distilled pyrrolidine (852 mg, 12 mmol) was added. Stirring was continued at room temperature for 2 hours, and then at 40° C. for 30 minutes. After adding a second portion of pyrrolidine (852 mg), the mixture was stirred at ambient temperature overnight, and then evaporated. The residue was partitioned between 5% aqueous NaHCO3 and ether. The organic layer was washed with 1.5% hydrochloric acid, and the separated aqueous part was basified (pH 8) with a saturated solution of NaHCO3. The product was extracted with ether, the combined extracts were dried (MgSO4), filtered, and evaporated. The residual oil was chromatographed on neutral alumina (activity III). Elution with chloroform-hexane 1:1 afforded 355 mg (63%) of the title base. The corresponding hydrochloride salt was crystallized from ethanol-ether, m.p. 183.5°-184.5° C.

reactant | 2-bromo-6,7,8,9-tetrahydro-8,8,10-trimethylpyrido[1,2-a]indol-9-ol | 2 mmol, 616 mg | BrC=1C=C2C(=C3N(C2=CC1)CCC(C3O)(C)C)C | C15H18BrNO
reactant | methanesulfonyl chloride | 4 mmol, 458 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | 12 mmol, 852 mg | N1CCCC1 | C4H9N
reactant | pyrrolidine | 852 mg | N1CCCC1 | C4H9N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-Bromo-6,7,8,9-tetrahydro-8,8,10-trimethyl-9-(1-pyrrolidinyl)-pyrido[1,2-a]indole Hydrochloride | 355 mg, 63% | Cl.BrC=1C=C2C(=C3N(C2=CC1)CCC(C3N3CCCC3)(C)C)C | InChI=1S/C19H25BrN2.ClH/c1-13-15-12-14(20)6-7-16(15)22-11-8-19(2,3)18(17(13)22)21-9-4-5-10-21;/h6-7,12,18H,4-5,8-11H2,1-3H3;1H
